US04319913
The procedure of Example 26 was employed utilizing N-benzylaniline and 4-fluorophenyl phosphonic dichloride to yield a pale yellow solid. The yellow solid was recrystallized from ethyl acetate to yield 1-(4-fluorophenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (5.9 g, 30% yield) as white needles having a melting point of 119°-120° C. and the following analysis:

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | 4-fluorophenyl phosphonic dichloride | FC1=CC=C(C=C1)P(=O)(Cl)Cl | C6H4Cl2FOP
product | 1-(4-fluorophenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 5.9 g, 30% yield | FC1=CC=C(C=C1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C19H15FNOP
